US09169259B2
Ethyl 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (150 mg, 358 μmol) was dissolved in dioxane (18 mL). To this was added a solution of LiOH (85.6 mg, 3.58 mmol) in water (9 mL). The mixture was stirred for 4 h, acidified with 1N HCl, and concentrated in vacuo to give the crude acid which was recrystallized from isopropyl alcohol and methanol to give 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (123 mg, 314 μmol, 88%) as a light brown powder. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.97 (s, 1H) 8.60 (s, 1H) 8.52 (s, 1H) 8.17-8.30 (m, 2H) 8.05 (d, J=7.55 Hz, 1H) 7.60-7.72 (m, 2H) 7.41 (d, J=8.31 Hz, 1H) 7.12 (d, J=8.31 Hz, 1H) 4.05 (s, 3H) 3.76 (s, 3H); LC/MS: 391.8 [MH]+.

reactant | Ethyl 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 358 μmol, 150 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OCC)C=CC1)C=CN2 | C22H21N5O4
reactant | LiOH | 3.58 mmol, 85.6 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 9 mL | O | H2O
product | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 314 μmol, 123 mg, 88% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C20H17N5O4
